US07465815B2
6-(2-Hydroxy-1-(4-isopropylphenyl)ethyl)-2,3-dimethylphenol
Using 3-(4-isopropylphenyl)-6,7-dimethyl-1-benzofuran-2 (3H)-one synthesized in Reference Example 3, the title compound was synthesized in the same manner as in Reference Example 8. Yield 36%. Melting point: 83-84° C. (ethyl acetate-hexane).

reactant | 3-(4-isopropylphenyl)-6,7-dimethyl-1-benzofuran-2 (3H)-one | C(C)(C)C1=CC=C(C=C1)C1C(OC2=C1C=CC(=C2C)C)=O | C19H20O2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 6-(2-Hydroxy-1-(4-isopropylphenyl)ethyl)-2,3-dimethylphenol | Yield 36% | OCC(C1=CC=C(C=C1)C(C)C)C1=CC=C(C(=C1O)C)C | C19H24O2
